US06627651B1
To methyl 7-[3-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.36 g) dissolved in THF (10.8 ml)/methanol (5.4 ml) was added a 1 N aqueous solution (2.4 ml) of sodium hydroxide, and the resulting mixture was stirred at 65° C. for 16 hours. After cooling to the room temperature, the reaction mixture was concentrated under reduced pressure to remove a half of the solvent. A 1 N aqueous solution (3.0 ml) of sodium hydroxide was added to the resulting mixture, which was washed with ethyl acetate. After being adjusted to pH=about 5 with a 1 N aqueous solution of hydrochloric acid, the resulting aqueous layer was extracted with ethyl acetate, and the extract was washed with an aqueous saturated solution of sodium chloride and was then dried with magnesium sulfate. After evaporation to remove the solvent, the resulting residue was washed with hexane/ethyl acetate (=8/1) to obtain 7-[3-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (0.27 g).

reactant | methyl 7-[3-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.36 g | C(CC)OCCOC=1C=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC1 | C23H26O7S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 10.8 ml | C1CCOC1 | C4H8O
solvent | methanol | 5.4 ml | CO | CH4O
product | 7-[3-(2-propoxyethoxy)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 0.27 g | C(CC)OCCOC=1C=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=CC1 | C22H24O7S
